US03997574
To a stirred, ice cooled solution of 10.5 g of 17-ethylenedioxy-3-methoxyestra-1,3,5(10)-trien-11-one in 300 ml of methyl iodide under an atmosphere of nitrogen is added, over 10 minutes, 120 ml of a 1.1 molar solution of potassium tert.-butoxide in t-butyl alcohol. The temperature is allowed to rise to room temperature and the mixture is then stirred for 18 hours. It is next poured onto 500 ml of water and extracted with methylene chloride, twice. The combined organic extracts are washed with water and dried over sodium sulfate. Removal of the solvent gives an oil which is crystallized from ether to yield 17-ethylenedioxy-3-methoxy-9α-methylestra-1,3,5(10)-trien-11-one, m.p. 142° - 145° C.

reactant | 17-ethylenedioxy-3-methoxyestra-1,3,5(10)-trien-11-one | 10.5 g | C1OC2[C@]3(C)[C@@H](CC2OC1)[C@@H]1CCC=2C=C(C=CC2[C@H]1C(C3)=O)OC | C21H26O4
reactant | potassium tert.-butoxide | CC(C)([O-])C.[K+]
reactant | water | 500 ml | O | H2O
solvent | methyl iodide | 300 ml | CI | CH3I
solvent | t-butyl alcohol | C(C)(C)(C)O | C4H10O
product | 17-ethylenedioxy-3-methoxy-9α-methylestra-1,3,5(10)-trien-11-one | C1OC2[C@]3(C)[C@@H](CC2OC1)[C@@H]1CCC=2C=C(C=CC2[C@]1(C(C3)=O)C)OC | C22H28O4
